US07576215B2
A solution of 3-benzyl-4-(3-bromo-phenyl)-8-trifluoromethyl-quinoline (1.0 g, 23 mmol) and trimethyl-tributylstannanylethynyl-silane (1.3 g, 34 mmol) in toluene (25 mL) is treated with Pd(PPh3)4 (270 mg) and heated at 120° C. for 3 h. The reaction is then cooled and concentrated in vacuo. The residue is chromatographed with 10:90 ethyl acetate:hexane to afford 3-benzyl-8-trifluoromethyl-4-(3-trimethylsilanylethynylphenyl)-quinoline as an oil. MS (ESI) m/z 460.0.

reactant | 3-benzyl-4-(3-bromo-phenyl)-8-trifluoromethyl-quinoline | 23 mmol, 1.0 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)Br)C(F)(F)F | C23H15BrF3N
reactant | trimethyl-tributylstannanylethynyl-silane | 34 mmol, 1.3 g | C[Si](C#C[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 270 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-benzyl-8-trifluoromethyl-4-(3-trimethylsilanylethynylphenyl)-quinoline | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)C#C[Si](C)(C)C)C(F)(F)F | C28H24F3NSi
